US07767675B2
Step 5. 6-(1-{6-[3-fluoro-4-(1-methyl-2-oxo-2-pyrrolidin-1-ylethoxy)phenyl]imidazo[1,2-a]pyrimidin-3-yl}cyclopropyl)quinoline
To a solution of 2-{2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]phenoxy}propanoic acid (59.1 mg, 0.126 mmol) in N,N-dimethylformamide (1.0 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (56 mg, 0.126 mmol), pyrrolidine (9.0 mg, 0.13 mmol) and N,N-diisopropylethylamine (0.1 mL) at RT. The mixture was stirred at RT for 3 h, and then purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=522.0.

reactant | 2-{2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]phenoxy}propanoic acid | 0.126 mmol, 59.1 mg | FC1=C(OC(C(=O)O)C)C=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C27H21FN4O3
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.126 mmol, 56 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | pyrrolidine | 0.13 mmol, 9.0 mg | N1CCCC1 | C4H9N
reactant | N,N-diisopropylethylamine | 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 6-(1-{6-[3-fluoro-4-(1-methyl-2-oxo-2-pyrrolidin-1-ylethoxy)phenyl]imidazo[1,2-a]pyrimidin-3-yl}cyclopropyl)quinoline | FC=1C=C(C=CC1OC(C(N1CCCC1)=O)C)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C31H28FN5O2
